US07244722B2
Step 1. 3-(2,4,5-Trifluorophenyl)propionic acid.
3-(2,4,5-Trifluorophenyl)acrylic acid (3.50 g, 17.3 mmol) was dissolved in glacial acetic acid (40 mL) and treated with active carbon (˜0.5 g). The mixture was stirred for 20 min, the carbon filtered off and washed with glacial acetic acid (20 mL). To the resulting solution Pd on carbon catalyst (0.45 g, 10% Pd) was added and the mixture was stirred under hydrogen at atmospheric pressure overnight. The suspension was filtered and concentrated in vacuo. Residual acetic acid was removed by addition of a small volume of toluene followed by concentration in vacuo. The resulting oil crystallized upon standing and this material was dried in vacuum at 50° C. to give 3.34 g (95%) of the title compound.

reactant | 3-(2,4,5-Trifluorophenyl)acrylic acid | 17.3 mmol, 3.50 g | FC1=C(C=C(C(=C1)F)F)C=CC(=O)O | C9H5F3O2
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 3-(2,4,5-Trifluorophenyl)propionic acid | 3.34 g, 95% | FC1=C(C=C(C(=C1)F)F)CCC(=O)O | C9H7F3O2
